US09107916B2
E. 2-[5-[(2-chloro-4-ethylphenyl)methoxy]pyrazol-1-yl]pyridine-4-carbonitrile
The title compound was prepared from 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile and (2-chloro-4-ethylphenyl)methanol according to the procedure for the preparation of Example 39, part C. 1H NMR (400 MHz, CDCl3): δ 1.24 (3H, t, J=7.6 Hz), 2.65 (2H, q, J=7.6 Hz), 5.30 (2H, s), 5.80 (1H, d, J=2.0 Hz), 7.12-7.14 (1H, m), 7.26 (1H, s), 7.39 (1H, dd, J=1.6 Hz, 4.8 Hz), 7.43 (1H, d, J=8.0 Hz), 7.58 (1H, d, J=2.0 Hz), 8.06 (1H, s), 8.71 (1H, d, J=4.4 Hz). [M+H] Calc'd for C18H15ClN4O, 339. Found, 339.

reactant | 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile | OC1=CC=NN1C1=NC=CC(=C1)C#N | C9H6N4O
reactant | (2-chloro-4-ethylphenyl)methanol | ClC1=C(C=CC(=C1)CC)CO | C9H11ClO
product | 2-[5-[(2-chloro-4-ethylphenyl)methoxy]pyrazol-1-yl]pyridine-4-carbonitrile | ClC1=C(C=CC(=C1)CC)COC1=CC=NN1C1=NC=CC(=C1)C#N | C18H15ClN4O
